### PR TITLE
Upgrade to Lean v4.22

### PR DESCRIPTION
**Pull request by shaobo-he-aws**
*Issue #, if available:*

*Description of changes:*

### CODE REVIEW

File: cedar-lean/Cedar/Thm/SymCC/Data/BitVec.lean [hunk 1]
```diff
@@ -332,7 +333,7 @@ theorem sdiv_pos_lt_INT64_MAX {bv₁ bv₂ : BitVec 64}
       case false =>
         simp only [beq_eq_false_iff_ne, ne_eq, eq_false_of_ne_true] at h₁
         simp only [decide_eq_true_eq, Int.ofNat_eq_coe] at h₁
-        simp only [h₁, ↓reduceIte]
+        simp [h₁, ↓reduceIte]
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/SymCC/Data/BitVec.lean]: super nit: since `reduceIte` is a default `simp` lemma, if we're going to make this a `simp` we might as well just write `simp [h₁]` and be done

File: cedar-lean/Cedar/Thm/Data/LT.lean [hunk 2]
```diff
@@ -471,22 +466,22 @@ theorem ValueAttrs.lt_asym {vs₁ vs₂: List (Attr × Value)} :
...
     have ⟨h₂, h₃⟩ := h₁
     have ⟨hl₂, hr₂⟩ := h₂
     subst hl₂ hr₂
-    simp only [decide_true, Bool.true_and, Bool.and_self]
+    simp only
     have h₃ := ValueAttrs.lt_asym h₃
     have h₄ := StrictLT.irreflexive a₁
     have h₅ := Value.lt_irrefl v₁
-    simp [h₃, h₄, h₅]
+    simp [h₃, h₅]
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/LT.lean]: guess we don't need `h₄` at all then

File: cedar-lean/Cedar/Thm/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -463,9 +463,9 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
 := by
   simp only [← mapM'_eq_mapM, mapM'_cons]
   cases h₁ : f x <;>
-  simp only [h₁, Except.bind_ok, Except.bind_err, false_implies, reduceCtorEq]
+  simp only [Except.bind_ok, Except.bind_err, false_implies, reduceCtorEq]
   cases h₂ : mapM' f xs <;>
-  simp [h₂, pure, Except.pure]
+  simp [pure, Except.pure]
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/List/Lemmas.lean]: guess we don't need to name `h₁` and `h₂` here

File: cedar-lean/Cedar/SymCC/Symbolizer.lean [hunk 4]
```diff
@@ -52,8 +52,8 @@ decreasing_by
   · cases s
     rename_i h
     have h := List.sizeOf_lt_of_mem h
-    simp [Set.toList, Set.elts] at h
-    simp [h]
+    simp only [Set.toList, Set.elts] at h
+    simp only [set.sizeOf_spec, Set.mk.sizeOf_spec, gt_iff_lt]
```
Comment (chaluli) [inline cedar-lean/Cedar/SymCC/Symbolizer.lean:56]: This no longer requires h. Can we just delete `have h := ...` and the `simp ... at h`?

File: cedar-lean/Cedar/Thm/Authorization/Evaluator.lean [hunk 5]
```diff
@@ -111,26 +111,26 @@ theorem ways_and_can_error {e₁ e₂ : Expr} {request : Request} {entities : En
...
             case prim prim =>
               cases prim <;>
-              simp [h_e₂] at h₁ <;>
+              simp [] at h₁ <;>
               simp [h₁]
           | error e =>
             simp only [↓reduceIte, h_e₂, Except.map_error, Except.error.injEq] at h₁
             simp only [h₁, and_false, or_false]
-        | false => simp [h_e₁] at h₁
+        | false => simp [] at h₁
```
Comment (chaluli) [inline cedar-lean/Cedar/Thm/Authorization/Evaluator.lean]: just `simp at h₁`?

File: cedar-lean/Cedar/SymCC/Symbolizer.lean (hunk 4 above)
Comment (shaobo-he-aws) [reply cedar-lean/Cedar/SymCC/Symbolizer.lean:56]: We actually need it. I tried to remove `h` and the proof didn't pass. I guess `omega` implicitly needs it?

Comment (chaluli) [reply cedar-lean/Cedar/SymCC/Symbolizer.lean:56]: Ah, I didn't expand enough to see the use of omega.

**Review by chaluli — APPROVED** [review]
Thank you for the upgrade! Looks great.
